US06432959B1
[2-(2-methyl-1H-benzimidazol-1-yl)ethyl]amine
A mixture of 2-methylbenzimidazole (4.93 g, 37.3 mmol), 2-chloroethylamine hydrochloride (4.67 g, 40.3 mmol), tetrabutylammonium sulfate (0.51 g, 1.5 mmol), sodium hydroxide (5.37 g, 134.2 mmol) and acetonitrile (80 mL) are stirred at reflux for 48 hrs. The resulting mixture is cooled to room temperature, filtered and concentrated in vacuo. The residue is purified by flash column chromatography (silica gel) using 1-3% MeOH—CH2Cl2 saturated with ammonium hydroxide as eluent to afford the title compound (3.56 g, MH+=176).

reactant | 2-methylbenzimidazole | 37.3 mmol, 4.93 g | CC=1NC2=C(N1)C=CC=C2 | C8H8N2
reactant | 2-chloroethylamine hydrochloride | 40.3 mmol, 4.67 g | Cl.ClCCN
reactant | sodium hydroxide | 134.2 mmol, 5.37 g | [OH-].[Na+]
catalyst | tetrabutylammonium sulfate | 1.5 mmol, 0.51 g | S(=O)(=O)([O-])[O-].C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetonitrile | 80 mL | C(C)#N | C2H3N
product | [2-(2-methyl-1H-benzimidazol-1-yl)ethyl]amine | 3.56 g | CC1=NC2=C(N1CCN)C=CC=C2 | C10H13N3
